data/mechanisms/records/IMS8-EQ8.93.json
{"mechanism_id": "IMS8-EQ8.93", "species": [{"species_id": "ee_oxocarbenium_precursor", "mapped_smiles": "[CH3:6][CH2:5][CH2:4][CH2:3][CH:1]=[O+:2][CH2:7][CH2:8][CH2:9][CH3:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methylene_oxocarbenium_ion", "mapped_smiles": "[CH2:7]=[O+:2][CH2:1][CH2:3][CH2:4][CH2:5][CH3:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "propene_neutral", "mapped_smiles": "[CH3:10][CH:9]=[CH2:8]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ee_oxocarbenium_precursor"]}, {"state_id": "state_products", "species_ids": ["methylene_oxocarbenium_ion", "propene_neutral"]}], "steps": [{"step_id": "step_rH_six_ring_to_carbon", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [8, 7]}, "target": {"type": "bond", "atom_maps": [9, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 7]}, "target": {"type": "bond", "atom_maps": [7, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 1]}, "target": {"type": "bond", "atom_maps": [7, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 1]}, "target": {"type": "bond", "atom_maps": [9, 8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_93", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_six_ring_to_carbon", "support_type": "textbook_proposed", "locator": {"page": 205, "equation": "8.93", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements (EE+ ion rearrangements)"}, "confidence": 0.8, "curator_note": "Equation 8.93, the single horizontal reaction arrow labelled 'r H'. SHARED SUBSTRATE: Equations 8.92-8.95 are four competing decompositions of ONE AND THE SAME even-electron (EE+) ion. The figure block draws that ion's parent at its left edge -- the OE+. molecular ion R'(CH2)3CH(R)-Y(+.)-(CH2)3R\" with '+.' printed on Y -- and four reaction arrows labelled 'alpha' fanning out from it, one into each numbered equation. The parent carries 2 drawn fishhooks (one leaving the C-R sigma bond, one leaving the '+.' odd electron on Y, both converging on the forming C=Y(+) pi bond); the third, homolysis hook that releases R. is NOT drawn, R. is simply implied by the 'alpha' label. That alpha-cleavage is an unnumbered preamble shared by all four equations and is NOT encoded in this record, which covers only the numbered 'r H' arrow. INSTANTIATION (convention F): the scheme is generic in Y, R, R' and R\"; this record uses Y = O, R' = CH3, R\" = CH3 (and R = CH3 for the un-encoded parent), so the EE+ ion is the oxocarbenium CH3(CH2)3CH=O(+)-(CH2)3CH3 (C9H19O+, curator-computed monoisotopic m/z 143.1430; it would arise by loss of CH3. from butyl hexan-2-yl ether, M+. m/z 158.1665). Y = O is the assignment the drawing forces: Y carries exactly three bonds both before (=CH plus one alkyl) and after the reaction, with no fourth substituent drawn; the nitrogen case quoted in the running text (CH2=N(+)RCH2CH2CD2CH3, Equation 8.93) would require that extra substituent. NO m/z and NO intensity is printed anywhere on page 205, so every mass in this record is curator-computed, every species is detected=false and the peak status is 'inferred' (convention F). REACTION AS DRAWN: the same EE+ ion is drawn inside a six-membered transition-state ring, but rotated so that the ring now runs H...C(9)-C(8)-C(7)-O(2)=C(1): the hydrogen is taken from the chain attached to the HETEROATOM and delivered to the sp2 CARBON, i.e. the H-receptor site is C1, not Y. The C8-C7 bond is cleaved, the alkene double bond C9=C8 forms in the expelled neutral and the C1=O2 double bond migrates to C7=O2 -- again 'the double bond can move away from the H-receptor site'. Products drawn: R\"-CH=CH2 (here propene, C3H6, 42.0470) and H2C=Y(+)-CH2(CH2)3R' (here CH2=O(+)-CH2(CH2)3CH3, C6H13O+, 101.0961). The running text pairs this scheme with a nitrogen case, 'Specific D-transfer takes place in CH2=N(+)RCH2CH2CD2CH3 with C3H5D elimination (Equation 8.93; Budzikiewicz and Bold 1991)'; that N substrate carries a fourth substituent R on Y which the figure does not draw, which is why this record instantiates Y = O (see above). ARC COUNT: the book draws 6 arc(s), all single-barb fishhooks, one across each ring position, in the same pattern as 8.92: the C9-H sigma bond sends one hook to the forming H-C1 bond and one to the forming C9=C8 pi bond; the C8-C7 sigma bond sends one hook to C9=C8 and one to C7=O2; the O2=C1 pi bond sends one hook to C7=O2 and one to the forming H-C1 bond. ENCODING LIMITATION: RDKit folds an atom-mapped explicit hydrogen back into its heavy atom's implicit-H count, so the migrating H cannot carry an atom map and every drawn hook that touches it is untranscribable as an ElectronMove. The moves below therefore re-express the drawn hooks at heavy-atom level; the H transfer itself is folded into the implicit-H counts of the two mapped atoms it moves between. Moves <1,2,3> are the three drawn hooks that do not touch the migrating H, transcribed verbatim: <1> C8-C7 -> C9-C8, <2> C8-C7 -> C7-O2, <3> O2-C1 -> C7-O2. Move <4> (O2-C1 -> C9-C8) is NOT a drawn arc: it is the re-decomposition standing in for the three untranscribable hooks (C9-H -> H-C1, C9-H -> C9=C8, O2=C1 -> H-C1). Heavy-atom bookkeeping is identical to the drawing (C8-C7 -2e, C9-C8 +2e, C7-O2 +2e, O2-C1 -2e)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 143.143, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_101", "species_id": "methylene_oxocarbenium_ion", "step_id": "step_rH_six_ring_to_carbon", "observed_mz": 101.0961, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
